US09085583B2
To a stirred solution of methyl 2-(2-bromophenyl)acetate (5.2 g, 22.7 mmol) in ethyl formate (40 mL) was added in portions the powder of sodium hydride (100%, 2.18 g, 90.8 mmol) over a period of 1 hour at 10-15° C. After the mixture was stirred for an additional hour, the reaction was quenched with ice water (100 mL) and the two layers were separated. The aqueous layer was acidified with 10% hydrochloric acid aqueous solution and then extracted with ethyl acetate (30 mL×3). The organic layers were combined and washed with water (2×20 mL), saturated sodium bicarbonate solution (2×40 mL) and brine in turns. Then organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to give ethyl 2-(2-bromophenyl)-3-hydroxyacrylate as a pink oil (5.33 g, 87%). 1H NMR (300 MHz, CDCl3): δ 11.99 (d, J=12.7 Hz, 1H), 7.59 (dd, J=7.8 Hz, 0.9 Hz, 1H), 7.46-6.98 (m, 4H), 4.25 (q, J=7.2 Hz, 2H), 1.24 (t, J=7.2 Hz, 3H).

reactant | methyl 2-(2-bromophenyl)acetate | 22.7 mmol, 5.2 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | sodium hydride | 90.8 mmol, 2.18 g | [H-].[Na+]
reactant | ethyl formate | 40 mL | C(=O)OCC | C3H6O2
product | ethyl 2-(2-bromophenyl)-3-hydroxyacrylate | 5.33 g, 87% | BrC1=C(C=CC=C1)C(C(=O)OCC)=CO | C11H11BrO3
